US07723367B2
2-(pyridin-3-yloxy)nicotinonitrile
Pyridin-3-ol was treated with 2-chloronicotinonitrile and processed according to the method of Example 128B to provide the product. MS (ESI+) m/z 198 (M+H)+.

reactant | Pyridin-3-ol | N1=CC(=CC=C1)O | C5H5NO
reactant | 2-chloronicotinonitrile | ClC1=C(C#N)C=CC=N1 | C6H3ClN2
product | 2-(pyridin-3-yloxy)nicotinonitrile | N1=CC(=CC=C1)OC1=C(C#N)C=CC=N1 | C11H7N3O
